US04703046
Conc. hydrochloric acid (0.7 ml.) was added to a solution of 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.) in methanol (45 ml.) and stirred at room temperature for 2 hrs. and further for 3.5 hrs. under ice-cooling. The reaction mixture was treated with activated charcoal. Water (30 ml.) was added to the solution and adjusted to pH 6.5 with 1N-aqueous sodium hydroxide, and methanol was distilled off. Ethyl acetate was added to the residue and adjusted to pH 2.5 with 1N-hydrochloric acid. The ethyl acetate layer was separated and the aqueous layer was washed with ethyl acetate. The ethyl acetate solution obtained above and the washings were combined, dried over magnesium sulfate, treated with activated charcoal and evaporated in vacuo. The residue was pulverized with diethyl ether, and the precipitates were collected by filtration and dried to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3 -cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylic acid | 1.4 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)OC)C(=O)O)C1=O)=NOC)Br | C15H14BrN5O7S2
reactant | charcoal | C | CH4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | Water | 30 ml | O | H2O
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3 -cephem-4-carboxylic acid | 1.2 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)OC)C(=O)O)C1=O)=NOC)Br | C14H14BrN5O6S2
